US07214802B2
A solution of TMSCHCN2 (1.0 M) was added to 4.28 g (17.3 mmol) of (4-hydroxy-3,5-dinitro-phenyl)-acetic acid in 63 mL of MeCN and 7 mL of MeOH. After 2 h, 0.8 mL of acetic acid was added. After stirring an additional 30 min, the solution was concentrated and partitioned between saturated NaHCO3 and EtOAc. The organic portion was washed with brine, dried with Na2SO4, filtered, and concentrated to provide (4-methoxy-3,5-dinitro-phenyl)-acetic acid methyl ester (3.22 g).

reactant | (4-hydroxy-3,5-dinitro-phenyl)-acetic acid | 17.3 mmol, 4.28 g | OC1=C(C=C(C=C1[N+](=O)[O-])CC(=O)O)[N+](=O)[O-] | C8H6N2O7
reactant | acetic acid | 0.8 mL | C(C)(=O)O | C2H4O2
reactant | MeOH | 7 mL | CO | CH4O
solvent | MeCN | 63 mL | CC#N | C2H3N
product | (4-methoxy-3,5-dinitro-phenyl)-acetic acid methyl ester | 3.22 g | COC(CC1=CC(=C(C(=C1)[N+](=O)[O-])OC)[N+](=O)[O-])=O | C10H10N2O7
